US07429660B2
[6-(6-Morpholin-4-yl-4-oxo-4H-pyran-2-yl)-thianthren-2-yloxy]-acetic acid sodium salt
To a solution of [6-(6-Morpholin-4-yl-4-oxo-4H-pyran-2-yl)-thianthren-2-yloxy]-acetic acid methyl ester (22 mg, 0.045 mmol in methanol (2 ml) was added solid sodium hydroxide (2 mg, 0.045 mmol). The mixture was stirred vigorously and heated to 60° C. for 1 hour. After this time, the mixture was concentrated in vacuo to dryness to give the title compound (22.4 mg, 100%) and used without any further purification.

reactant | [6-(6-Morpholin-4-yl-4-oxo-4H-pyran-2-yl)-thianthren-2-yloxy]-acetic acid methyl ester | COC(COC1=CC=2SC3=CC=CC(=C3SC2C=C1)C=1OC(=CC(C1)=O)N1CCOCC1)=O | C24H21NO6S2
reactant | sodium hydroxide | 0.045 mmol, 2 mg | [OH-].[Na+]
solvent | methanol | 2 ml | CO | CH4O
product | [6-(6-Morpholin-4-yl-4-oxo-4H-pyran-2-yl)-thianthren-2-yloxy]-acetic acid sodium salt | 22.4 mg, 100% | [Na+].N1(CCOCC1)C1=CC(C=C(O1)C1=C2SC=3C=CC(=CC3SC2=CC=C1)OCC(=O)[O-])=O | InChI=1S/C23H19NO6S2.Na/c25-14-10-17(30-21(11-14)24-6-8-28-9-7-24)16-2-1-3-19-23(16)32-18-5-4-15(12-20(18)31-19)29-13-22(26)27;/h1-5,10-12H,6-9,13H2,(H,26,27);/q;+1/p-1
